US05109014
To 16.8 g (73 mmole) of 2-dimethylamino-4'-difluoromethoxyacetophenone in 100 ml of methylene chloride cooled to 0° C. was added 7.6 g (81 mmole) of methyl chloroformate. After the addition was complete the reaction mixture was allowed to warm to 20° C. and stirred overnight. Concentration in vacuo, partitioning between diethyl ether and 1M aqueous hydrochloric acid, washing with brine, drying over anhydrous magnesium sulfate, and reconcentration in vacuo gave a crude oil. Chromatography of this oil on silica gel using diethyl ether in hexanes gave 12 g of 2-(N-methyl-N-(methoxycarbonyl)amino)-4'-difluoromethoxyacetophenone an oil, bp 150°-190° C. at 0.7 torr.

reactant | 2-dimethylamino-4'-difluoromethoxyacetophenone | 73 mmole, 16.8 g | CN(CC(=O)C1=CC=C(C=C1)OC(F)F)C | C11H13F2NO2
reactant | methyl chloroformate | 81 mmole, 7.6 g | ClC(=O)OC | C2H3ClO2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(N-methyl-N-(methoxycarbonyl)amino)-4'-difluoromethoxyacetophenone | 12 g | CN(C(=O)OC)CC(=O)C1=CC=C(C=C1)OC(F)F | C12H13F2NO4
